US04434175
Methyl-5-(p-chlorobenzoyl)-4-methylthio-1-methylpyrrole-2-acetate (19 mg) is dissolved in 0.5 ml of absolute ethanol. Aqueous sodium hydroxide (1 ml of 2.5 N solution) is added dropwise at a rate such that the reaction stayed homogeneous. Upon completion of the addition, the reaction is allowed to stand for about 30 minutes followed by precipitation with 1.5 ml of 2.5 N aqueous hydrochloride. The resulting precipitate is filtered, and dried in vacuo to afford 15 mg of 5-(p-chlorobenzoyl)-4-methylthio-1-methylpyrrole-2-acetic acid.

reactant | Methyl-5-(p-chlorobenzoyl)-4-methylthio-1-methylpyrrole-2-acetate | 19 mg | COC(CC=1N(C(=C(C1)SC)C(C1=CC=C(C=C1)Cl)=O)C)=O | C16H16ClNO3S
reactant | sodium hydroxide | 2.5 N, 1 ml | [OH-].[Na+]
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 5-(p-chlorobenzoyl)-4-methylthio-1-methylpyrrole-2-acetic acid | 15 mg | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC(=O)O)SC)C=C1 | C15H14ClNO3S
